Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
respiratory failure
 
Major Surgical or Invasive Procedure:
___- Endotracheal intubation, mechanical ventilation, 
subsequent extubation
___- Bronchoscopy
 
History of Present Illness:
Mr. ___ is a ___ year-old male smoker with a history of severe 
COPD on home oxygen (4L), ___, and DM2 who presents from home 
with dypnea and respiratory failure.  He was recently discharged 
on ___ after being admitted for a COPD exacerbation (3 day 
hospital stay) and was sent to ___ rehab.  He did 
well at rehab and arrived home yesterday.  Since this morning, 
per his wife, he began feeling increasingly dyspneic and fatigue 
and had fevers; he has a chronic productive cough at baseline 
which was unchanged.  He then called EMS after finishing 
___ dinner with his family.  Of note, his daughter has 
cystic fibrosis and is "coming down with a cold."  No pets at 
home.
.
He was noted by EMS to be dyspneic and received nebs without 
improvement.  He desatted with a NRB and was intubated en route 
to ___ ED.
.
In the ED, vital signs were initially:  103.4 rectal 96 109/53 
99% on vent settings of cmv 550 x 16, peep 8, fio2 100%.  A CXR 
demonstrated a RLL infiltrate.  He was given 2.5L IVF, vanc, 
ceftriaxone, and levoflox and admitted to the FICU.
 
Past Medical History:
1. Severe COPD: followed by Dr. ___, on prednisone and home 
oxygen (4L NC) at baseline, recently he has been having monthly 
admissions for COPD: PFT's ___: FEV1 19%, FEV1/FVC 43%  
2. Chronic Systolic CHF: TTE ___ LVEF>55%, although patient 
denies this  
3. Gastritis/GERD  
4. h/o SBO  
5. Tobacco Abuse: Previous 5PPD, now ___ cigs/day  
6. Diabetes Mellitus type 2 
7. Diverticulosis  
8. C6-C7 HERNITATION  
9. B12 Deficiency- on monthly injections 
10. Obesity with possible OSA, but pt refuses sleep study or 
CPAP  
11. Psoriasis  
12. Hypertension  
13. Glaucoma  
14. Recent LLE cellulitis ___  
 
Social History:
___
Family History:
Mother - died of lung cancer in ___
Father - died of lung cancer in ___
Sister- died of lung cancer in ___

 
Physical Exam:
VS:  103.4 rectal 96 109/53 99% on AC, fio2 100%, 550 x 16, peep 
10
GEN: intubated, cushingoid
SKIN: No rashes or skin changes noted  
HEENT:  obese neck, unable to appreciate JVD, No lymphadenopathy 
in cervical, posterior, or supraclavicular chains noted.  
CHEST: + b/l rhonchi, no wheezes
CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.  
ABDOMEN: obese, no hepatosplenomegaly
EXTREMITIES: no peripheral edema
NEUROLOGIC: intubated, arousable, unable to assess strength
 
Pertinent Results:
Admission Labs:

ABG pH 7.27 pCO2 83 pO2 235 HCO3 40 BaseXS 7 

Na:142
K:4.4
Cl:100       
Glu:207
Lactate:0.6
___: 11.8  PTT: 21.1  INR: 1.0  

145  93  61
------------< 223
4.8  39  1.7  

freeCa:1.08
Lactate:2.3
pH:7.22

CK: 53  MB: Notdone  Trop-T: Pnd  
Ca: 8.3 Mg: 2.9 P: 2.9
Serum ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc Negative 
 
14.4 >--< 229 
     34.2  

CBC on ___: 9.7 > 31 < 76

STUDIES:

CXR ___: Patchy opacities bilaterally which could be 
consistent with 
multifocal pneumonia and/or aspiration. Possible overlying 
pulmonary edema. Trace right pleural effusion.

CXR ___: Relatively symmetric ground-glass opacification in 
the lower lung zones is most likely pulmonary edema. Heart is 
normal size. The mediastinal veins are distended. Left jugular 
vein ends in the upper SVC. Lung bases are excluded from the 
examination. Upper pleural margins show no abnormality, but some 
pleural effusion could be present.

EKG: Artifact is present. Sinus tachycardia. Probably normal 
tracing. Compared to the previous tracing there is no 
significant change.
 
Brief Hospital Course:
Mr. ___ is a ___ year-old male smoker with a history of severe 
COPD on home oxygen (4L), DM2, and diastolic heart failure who 
presented to the ICU from home (after a brief stay at rehab 
following recent hospitalization) with dyspnea and respiratory 
failure.  Due to worsening respiratory effort he was intubated 
in the field, transported to the emergency department and 
admitted to the ICU.
.
1. Hypoxic/hypercapneic respiratory failure:  His respiratory 
failure was felt to be secondary to pneumonia complicated by 
COPD exacerbation. Mr. ___ has history of multiple COPD 
exacerbations and pneumonia episodes in past, for which he has 
been intubated, and he continues to smoke.  He presented to the 
ICU on ___, intubated with ABG consistent with chronic 
respiratory acidosis. He was started on empiric vancomycin and 
zosyn for hospital-acquired pneumonia (given recent 
hospitalization and rehab stay) as well as azithromycin for 
atypical coverage.  His antibiotics were eventually switched to 
Levaquin after a bronchoalveolar lavage culture grew 
stenotrophomonas maltophilia that was sensitive to Levaquin.  He 
was started on tamiflu empirically, and had a flu swab that 
later returned negative and his Tamiflu was discontinued. He was 
extubated on ___ without complication.  He was initially on 
high dose solumedrol IV which was transitioned to prednisone 60 
mg po daily. Per Dr. ___ pulmonologist), he 
should continue this dose of prednisone until he his seen in 
clinic.  He completed a 9 day course of levaquin for his 
hospital acquired Stenotrophomonas pneumonia. At time of 
discharge patient is requiring albuterol nebs q3h and 
ipratropium nebs q6h to prevent acute exacerbation.  Patient 
would also likely benefit a great deal by BiPAP.  He was seen by 
Respiratory Therapy on the medical floor and started on 
intermittent BiPAP. Recommend continuing to offer BiPAP for 
intermittent relief and throughout night. Smoking cessation 
(reportedly has not smoked since ___ hospital admission) was 
congratulated and abstinence encouraged.  Patient is scheduled 
to follow up with Dr. ___ in clinic on ___ to address 
prednisone taper.
.
2. Acute Renal insufficiency:  Mr. ___ has a baseline 
Creatinine of 0.7 which was elevated on admission to 1.7.  His 
creatinine trended downward (1.0) during his ___ hospital course 
in response to IV fluid. The underlying etiology for ARF on 
presentation was felt to be pre-renal in the setting of 
pneumonia. With later diuresis on the medicine floor for volume 
overload his creatinine fell to 0.8. suggesting his diastolic 
dysfunction is a considerable contributor to compromised renal 
function. 
.
3. Hypertension: After receiving IV fluids and high dose 
steroids for his pneumonia and COPD, he became hypertensive.  He 
was restarted on his home amlodipine which was increased to 10mg 
po daily.  He was also restarted on lisinopril 40 mg po daily 
and lasix 60 mg po daily (discontinued on previous admission in 
setting of ARF). 
.
4. Diastolic CHF: Patient appeared volume overloaded on 
presentation to the medicine floor.  Lasix was restarted and 
patient was diuresed > 3 L.  Renal function improved with 
diuresis. Continue antihypertensive regimen as listed about. 
Recommend compression stockings and leg elevation to reduce 
lower extremity edema.  
.
5. Sinus Tachycardia: Persists throughout admission. Likely 
secondary to frequent albuterol nebs and respiratory distress.  
If tolerated attempt to decrease frequency of albuterol nebs to 
decrease tachycardia and allow greater diastolic filling.
.
6. CODE STATUS: Patient stated that he no longer would like to 
be intubated on ___.  However, he would not like this to 
take effect until he has discussed this with his family.  He 
plans to meet with his family on ___ to notify them of this 
change.  Please verify code status with patient after his family 
discussion.

 
Medications on Admission:
MEDICATIONS AT HOME (per last d/c summary):  
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) nebs q2h prn
2. Ipratropium Bromide 0.02 % nebs Q6H (every 6 hours)
3. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY
4. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO Q8H prn
5. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID
6. Pantoprazole 40 mg Tablet PO Q12H 
7. Simvastatin 5 mg Tablet PO DAILY (Daily)
8. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr PO HS 
9. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
10. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Ferrous Sulfate 325 mg (65 mg Iron) One (1) Tablet PO DAILY
14. Atovaquone 750 mg/5 mL Suspension Sig: 1500 (1500) mg PO 
daily
15. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON 
16. Calcium Carbonate 500 mg Tablet, Chewable (1) Tablet PO 
TIDAC 
17. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: 1 Tablet 
BID 
18. Senna 8.6 mg Tablet Sig: ___ Tablets PO HS (at bedtime) prn
19. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
20. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) neb Q4H 
21. Guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q6H
22. Fluticasone-Salmeterol 500-50 mcg/Dose Disk: 1 disc bid prn
23. Insulin Lispro 100 unit/mL Solution Sig: sliding scale.  
24. Triamcinolone Acetonide 0.1 % Ointment: 1 Appl BID prn 
psoriasis 
25. Clobetasol 0.05 % Ointment (1) Appl Topical BID prn 
psoriasis 
26. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) 
prn
27. Prednisone 20 mg PO DAILY (Daily)
28. Glipizide 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
29. Spiriva with HandiHaler 18 mcg Capsule: One (1) Inhalation 
daily
 
Discharge Medications:
1. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID prn as needed 
for Constipation.  
2. Heparin (Porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection TID (3 times a day).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
4. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
5. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
7. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TIDAC (3 times a day (before meals)).  
8. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
9. Atovaquone 750 mg/5 mL Suspension Sig: 1500 (1500) mg PO 
DAILY (Daily).  
10. Ipratropium Bromide 0.02 % Solution Sig: One (1) neb 
Inhalation Q6H (every 6 hours).  
11. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
12. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
13. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
14. Prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
15. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed for congestion.  
16. Guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q6H (every 6 
hours) as needed for cough.  
17. Clobetasol 0.05 % Ointment Sig: One (1) Appl Topical BID (2 
times a day) as needed for psoriasis.  
18. Furosemide 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
19. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
20. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q3H (every 3 hours).  
21. Insulin
See Humalog sliding scale. 
Check fsbs qachs.
Half dose while npo.
22. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day: 
Hold if SBP < 100.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
COPD
Hypertension
Diastolic CHF
Diabetes Mellitus

 
Discharge Condition:
Patient on home oxygen requirement of 4L/min NC, ambulation is 
SEVERELY limited by respiratory distress, patient requires 
assistance/supervision with all ambulation, tolerates po diet 
and medications.

 
Discharge Instructions:
You presented to the ___ Emergency Department by ambulance in 
respiratory failure.  You required intubation during your 
transport.  You were admitted to the ICU and found to have 
pneumonia and an exacerbation of your severe COPD.  You were 
treated with antibiotics, and steroids and improved.  You were 
extubated and transferred to the medicine floor.  There you 
continued to receive antibiotics, steroids, and frequent 
breathing treatments.  Your lasix was restarted to remove extra 
fluid and to help your breathing and your leg swelling.  You 
were discharged back to ___ Center where you 
will continue your diuresis and respiratory therapy.

The following changes were made to your medications:
1) INCREASE amlodipine to 10 mg by mouth daily
2) RESTART furosemide (lasix) 60 mg by mouth daily
3) RESTART lisinopril 40 mg by mouth daily
 
Followup Instructions:
___